US05045557
Ethyl 5-methylimidazole-4-carboxylate was converted by a Grignard reaction, using phenylmagnesium bromide, to 4-[ethoxy(diphenyl)methyl]-5-methylimidazole, m.p. 205°. This was then treated with dimethylsulphamoyl chloride in a similar manner to that described in Example 1, to give 1-dimethylsulphamoyl-4-[ethoxy(diphenyl)methyl)-5-methylimidazole, m.p. 150°.

reactant | Ethyl 5-methylimidazole-4-carboxylate | CC1=C(N=CN1)C(=O)OCC | C7H10N2O2
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | 4-[ethoxy(diphenyl)methyl]-5-methylimidazole | C(C)OC(C=1N=CNC1C)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H20N2O
reactant | dimethylsulphamoyl chloride | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
product | 1-dimethylsulphamoyl-4-[ethoxy(diphenyl)methyl)-5-methylimidazole | CN(S(=O)(=O)N1C=NC(=C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)OCC)C | C21H25N3O3S
